US07423150B2
A solution of 4-(4-(methylamino)-3-nitrophenoxy)pyridin-2-amine (1 eq) and triethylamine (2 eq) in tetrahydrofuran was treated with 2-chloroacetyl chloride and stirred for 15 minutes at room temperature. The reaction mixture was then concentrated and partitioned between ethyl acetate and water. The organic layer was separated and washed with brine, dried over sodium sulfate and concentrated in vacuum to give crude product. Purification on silica gel with 2% methanol in methylene chloride gave N-(4-(4-(methylamino)-3-nitrophenoxy)pyridin-2-yl)-2-chloroacetamide as a bright orange solid. HPLC=3.82 min; MS: MH+=337.

reactant | 4-(4-(methylamino)-3-nitrophenoxy)pyridin-2-amine | 1 eq | CNC1=C(C=C(OC2=CC(=NC=C2)N)C=C1)[N+](=O)[O-] | C12H12N4O3
reactant | triethylamine | 2 eq | C(C)N(CC)CC | C6H15N
reactant | 2-chloroacetyl chloride | ClCC(=O)Cl | C2H2Cl2O
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | N-(4-(4-(methylamino)-3-nitrophenoxy)pyridin-2-yl)-2-chloroacetamide | CNC1=C(C=C(OC2=CC(=NC=C2)NC(CCl)=O)C=C1)[N+](=O)[O-] | C14H13ClN4O4
